US05840751
5,6-Dihydro-3-(2-sec-butylphenylthio)-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (+/-)
The title compound was prepared as described in General Method 6 from 1.6 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (prepared in example AAA), 1.7 mmol of 2-sec-butylbenzenethiol, and 1.7 mmol of piperidine in 25 mL of dichloromethane. The product was chromatographed on silica gel, eluting first with chloroform and then with 5% methanol in chloroform, to give the title compound (m.p. 161°-162° C.). 1H NMR (DMSO-d6) δ 0.81 (t, 3 H), 1.15 (d, 3 H), 1.43-1.64 (m, 2 H), 2.98 (m, 1 H), 3.77 (s, 2 H), 5.65 (dd, 1 H), 6.47 (t, 1 H), 6.92 (t, 1 H), 7.07 (d, 1 H), 7.34-7.48 (m, 10 H), 12.4 (bs, 1 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 1.6 mmol | BrC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H13BrO3
reactant | 2-sec-butylbenzenethiol | 1.7 mmol | C(C)(CC)C1=C(C=CC=C1)S | C10H14S
reactant | piperidine | 1.7 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5,6-Dihydro-3-(2-sec-butylphenylthio)-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | C(C)(CC)C1=C(C=CC=C1)SC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H26O3S
